US07504403B2
9-{2-[2-(3-Azidomethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl }-2phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
To a stirring mixture of 9-{2-[2-(3-hydroxymethyl-phenyl) -1-methyl-ethylamino]-pyrimidin-4-yl}-2-phenyl-6,7,8,9-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one (230 mg, 0.49 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.13 mL, 0.88 mmol), and tetrahydrofuran (12 mL) at 0° C. under an atmosphere of nitrogen was added diphenylphosphoryl azide (0.19 mL, 0.88 mmol). Mixture stirred overnight warming to room temperature. Solvent removed under vacuum and product isolated as a white solid after purification on silica. M+1=494.

reactant | 9-{2-[2-(3-hydroxymethyl-phenyl) -1-methyl-ethylamino]-pyrimidin-4-yl}-2-phenyl-6,7,8,9-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one | 0.49 mmol, 230 mg | OCC=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)N1CCCN2C1=NC(=CC2=O)C2=CC=CC=C2 | C27H28N6O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.88 mmol, 0.13 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | diphenylphosphoryl azide | 0.88 mmol, 0.19 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 9-{2-[2-(3-Azidomethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl }-2phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | N(=[N+]=[N-])CC=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)N1CCCN2C1=NC(=CC2=O)C2=CC=CC=C2 | C27H27N9O
